US07618967B2
1 g Sodium hydride (60% in mineral oil) was added to 2 g 3-((1R,3R)-3-azido-indan-1-yl)-6-methoxy-1H-indole in 50 mL dry THF at 5° C. and the reaction mixture was stirred 1 hour at 5° C. 2 g p-toluene sulfonic acid chloride was added in portions at 5° C. and stirring was continued for another 4 hours. Ice was added and after 1 hour water and ethyl acetate was added. The organic phase was separated and washed with brine, dried over MgSO4 and concentrated in vacuo. After flash chromatography (heptane/ethyl acetate, silica gel), 2.5 g 3-((1R,3R)-3-azido-indan-1-yl)-6-methoxy-1-(toluene-4-sulfonyl)-1H-indole was isolated.

reactant | Sodium hydride | 1 g | [H-].[Na+]
reactant | 3-((1R,3R)-3-azido-indan-1-yl)-6-methoxy-1H-indole | 2 g | N(=[N+]=[N-])[C@@H]1C[C@H](C2=CC=CC=C12)C1=CNC2=CC(=CC=C12)OC | C18H16N4O
reactant | p-toluene sulfonic acid chloride | 2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-((1R,3R)-3-azido-indan-1-yl)-6-methoxy-1-(toluene-4-sulfonyl)-1H-indole | 2.5 g | N(=[N+]=[N-])[C@@H]1C[C@H](C2=CC=CC=C12)C1=CN(C2=CC(=CC=C12)OC)S(=O)(=O)C1=CC=C(C=C1)C | C25H22N4O3S
